Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Aspirin / Metronidazole / Iodine; Iodine 
Containing / Simvastatin / Ibuprofen
 
Attending: ___
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with a PMH of
HTN, HLD, DM and a reported prior stroke who was brought to the
ED by EMS. Per the daughter and EMS, she was sitting when she
"fell out". She fell forward but did not loose consciousness. 
The
daughter is not certain if she fell to the L or R, but EMS
reported that she fell to the R. Her BS in the field was 154, 
the
SBP was in the 140's and her HR was regular and in the 80's.
There was no history of change in speech, weakness, facial droop
or other focal deficits. Last known well time 3:30 pm. Time at
arrival 4:30pm. 

In the ED, IV access was difficult to obtain and an EJ had to be
placed. CT would not perform a CTA with an EJ or central line,
requesting a peripheral or Power PICC. As these forms of access
were not immediately possible she was referred for stat MRI
rather than CTA. These images are pending.

Of note, she was recently admitted to the medicine service.
During that time she had an echo which showed an EF of > 70%. 
 
ROS: possible dysuria? Pt reports "it hurts when I pass water, 
is
it my kidneys?". Unable to obtain further ROS as pt does not
answer questions consistently

 
Past Medical History:
PMH: (per OMR)  
# HTN
# ? prior stroke
# Frequent ED/hospital presentations for noncardiogenic atypical 

CP
--pMIBI ___ negative
--Echo ___: LVH, EF > 55%
# Hyperlipidemia  
# Dementia
# Osteoarthritis
# Spinal stenosis  
# Chronic back pain  
 
Social History:
___
Family History:
Noncontributory.
 
Brief Hospital Course:
The patient was admitted to neurology service. MRI was negative 
for stroke. UA showed UTI and the patient improved with cipro.
 
Medications on Admission:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*1*
2. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.
Disp:*30 Tablet(s)* Refills:*1*
3. Percocet ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours.  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
5. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO twice 
a day.
Disp:*60 Tablet(s)* Refills:*1*
6. Multivitamin     Capsule Sig: One (1) Capsule PO once a day.
Disp:*30 Capsule(s)* Refills:*1*
7. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Medications:
1. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
2. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
5. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
UTI

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the neurology service. MRI was negative for 
stroke. You were found to have a urinary tract infection, which 
was likely what caused the event yesterday.
 
Followup Instructions:
___